US07825128B2
36) 2-Chloro-4-(tetrahydro-furan-2-ylmethoxy)-5-thiophen-2-yl-pyrimidine
Preparation according to procedures 4b and 3 with the use of 2,4-dichloro-5-iodopyrimidine, 2-tetrahydrofuranyl-methanol and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 2-tetrahydrofuranyl-methanol | O1C(CCC1)CO | C5H10O2
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | 2-Chloro-4-(tetrahydro-furan-2-ylmethoxy)-5-thiophen-2-yl-pyrimidine | ClC1=NC=C(C(=N1)OCC1OCCC1)C=1SC=CC1 | C13H13ClN2O2S
